US07767672B2
7-bromo-2-(2,2,2-trifluoroethyl)isoquinolin-1(2H)-one
To a stirred solution of 7-bromoisoquinolin-1(2H)-one (5 g, 22.3 mmol) and iodotrifluoroethane (4.9 g, 23.4 mmol) in dimethylacetimide cooled to 5° C. was added sodium hydride 60% wt (0.89 g 22.3 mmol) portion wise over 5 minutes. After complete addition reaction mixture allowed to warm up to room temperature over 2 hours and then heated at 50° C. for 24 hours. Reaction mixture was evaporated to leave a residue, which was diluted with ethyl acetate (200 ml) and water (200 ml). The aqueous layer was further extracted with ethyl acetate (2×50 ml) and organic layers were combined and washed with saturated aqueous bicarbonate (200 ml), brine (200 ml) and dried over Magnesium sulfate powder, filtered and concentrated under reduced pressure to leave a residue and purified using column chromatography eluting with 50% ethyl acetate/petrol ether to give a yellow solid which was still impure by LCMS (1.53 g, 22% yield)

reactant | 7-bromoisoquinolin-1(2H)-one | 22.3 mmol, 5 g | BrC1=CC=C2C=CNC(C2=C1)=O | C9H6BrNO
reactant | iodotrifluoroethane | 23.4 mmol, 4.9 g | ICC(F)(F)F | C2H2F3I
reactant | sodium hydride | [H-].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 7-bromo-2-(2,2,2-trifluoroethyl)isoquinolin-1(2H)-one | 22% yield | BrC1=CC=C2C=CN(C(C2=C1)=O)CC(F)(F)F | C11H7BrF3NO
